US05086062
A.2 2-Amino-4-fluorophenol
To a solution of 4-fluoro-2-nitrophenol (48.3 g, 0.30 mole) in 300 ml ethanol was added 0.24 g platinum oxide under nitrogen atmosphere. The mixture was hydrogenated with a Parr shaker for 8 hours at 45 psi. The catalyst was filtered off and the filtrate was concentrated to leave 40.5 g of the title compound as a brown powder. The NMR spectrum showed absorption at 4.79 (br.s, 2H), 6.11 (m, 1H), 6.36 (dd, 1H, J=11, 3 Hz), 6.53 (dd, 1H, J=5, 9 Hz) and 8.89 (s, 1H).

reactant | 4-fluoro-2-nitrophenol | 0.30 mole, 48.3 g | FC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4FNO3
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.24 g | [Pt]=O
product | 2-Amino-4-fluorophenol | 40.5 g | NC1=C(C=CC(=C1)F)O | C6H6FNO
